Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Doxycycline / Morphine Sulfate / Phenobarbital
 
Attending: ___.
 
Chief Complaint:
"10 or ___ years ago I thought I would lose my job and attempted 
suicide. It feels similar now."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with past psychiatric history of major 
depressive disorder with psychotic features, past medical 
history of hypercholesterolemia, hypertension, atrial 
fibrillation, mild cognitive impairment, and mild ___ 
who is a patient of Dr. ___ and is admitted for 
recurrence of psychosis.

Per Dr. ___ dated ___, Mr. ___ was doing 
well until about a week ago when he became "increasingly 
preoccupied with having run into someone
from ___ School who knew him when he was sick. 
Since then he has become increasingly paranoid and delusional. 
He has become convinced that people are talking about him and 
that he owes money to ___. He has looked 
into investments for money to repay ___ and has concealed 
this
from his wife." 

Upon presentation to the unit, Mr. ___ reports that for the 
last 6 days his mood has been "very upset and nervous." He says 
that about 6 days ago, he "imagined" that he stole from ___ 
___ while he worked there in the past and he has 
been concerned that the people may come to arrest him for this. 
He reports he has gone as far as to look for money to repay 
___.
He is not sure whether this is real or not but regardless, is 
very upset about this. He has also been hearing voices which he 
is unsure are real. He cannot recall what they say exactly but 
reports that they say "disparaging" things to him. He now feels 
extremely guilty about past sexual transgressions and abusing an 
expense account to support these transgressions in the remote 
past. No visual hallucinations. He has had "fleeting" SI which 
is ego-dystonic. No plan or intent. He is adamant that he enjoys 
his life. He loves his wife and children dearly and describes 
his 4 grandchildren as a "joy" but the delusions have 
preoccupied him to the extent that he has difficulty interacting 
with them. He thinks that the delusions preceded the mood 
symptoms but is not
sure. He reports that his current symptoms are very similar to 
those he experienced in ___ when he attempted suicide by 
overdosing on narcotics and walking into ___ and 
doesn't want things to get "that bad" this time. He is fearful 
of ECT but cannot describe why and is unsure if it helped him in 
the past.
 
Past Medical History:
PAST MEDICAL HISTORY:   
PCP: Dr. ___                   
___                                                       
HYPERTENSION                                                    
ATRIAL FIBRILLATION                                             
ELEVATED CHOLESTEROL                                            
BACK FRACTURE                                                   
___ DISEASE                                             
TRIGEMINAL NEURALGIA   
h/o right TKR
h/o left meniscus repair
 
Social History:
___
Family History:
Brother with depression
 
Physical Exam:
PHYSICAL EXAMINATION:

VS: T:97.5 P:74   BP: 180/100 -> 160/80 manually bilaterally  
RR:
16   SaO2:99 % (RA)
* General: Well-nourished, well-developed, in no apparent 
distress. Appears stated age. Good hygiene, appropriately 
dressed in plaid button-down shirt and jeans. Mildly stooped 
posture with slow gait. 
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear. Decreased 
blink.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: irregular, no murmur heard 
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light 
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk. Mildly increased tone in all 4 
extremities with some cogwheeling rigidity. No abnormal 
movements, no tremors. Strength full power ___ throughout. No 
gross focal motor or sensory deficits, slow gait.
  *Coordination-  Normal on finger-nose-finger, rapid 
alternating movements, heel to shin.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.
  *Romberg- negative.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: no apparent distress, appears stated age, good 
hygiene, appropriately dressed, hypomimia, decreased blink 
* Behavior: appeared somewhat anxious, cooperative, engaged,
friendly, pleasant, appropriate eye contact, orients to
interviewer, no abnormal posturing, psychomotor retardation
* Orientation: oriented to ___ as well as person, 
place,
and situation
* Mood: "very upset and anxious"
* Affect: difficult to assess due to masked facies but appeared
somewhat dysphoric and constricted 
* Thought Process: somewhat bradyphrenic, linear, coherent,
goal-oriented, no loose associations
* Thought Content: fleeting SI which is ego-dystonic and without
plan denies HI/VH, +AH but not during interview, overvalued 
ideas
about owing ___ money, + paranoia, does not appear to be
responding to internal stimuli
* Impulse Control: fair
* Judgment: fair
* Insight: fair
* Speech: fluent, slowed rate, normal tone, soft volume, no
paraphasic errors

COGNITION:
* Memory: ___ registration, ___ recall at 5 min, ___ with list 
of
4; remote intact
* Concentration: good
* Abstraction: apple/orange = "fruit"
* Proverb: correctly interprets "The apple doesn't fall far from
the tree"
* Calculation: $1.75 = "7 quarters"
* Fund of knowledge: able to name ___ play by ___
* Attention span: able to list MOYB with 1 error
* Language: normal naming, appropriate to conversation
 
Pertinent Results:
___ 06:50AM BLOOD WBC-6.4 RBC-4.08* Hgb-12.5* Hct-39.1* 
MCV-96# MCH-30.6 MCHC-32.0 RDW-13.3 RDWSD-47.4* Plt ___
 
Brief Hospital Course:
==== PSYCHIATRIC =====
# Major Depressive Disorder with psychotic features:  Mr. ___ 
has a history of depression since ___ with notable shame and 
guilt. In the hospital his nortriptyline was increased to 75mg 
QHS and he was started on olanzapine 2.5mg that was subsequently 
increased to 5mg. During his admission the patient noted 
fleeting visual hallucinations which most consistently included 
"little green men" which he sees in "clouds" in the room. He 
denied any auditory hallucinations throughout his admission. 
Throughout the week of ___ he developed increasing insight into 
his delusions of owing money to ___ by 
stating he likely does not owe them any money and he was "acting 
crazy." His paranoia decreased in this time as well and he noted 
that focus and concentrating on these paranoid thoughts helped 
to resolve these concerns as he knew they were not based in 
reality. He was similarly able to "ignore" the visual 
hallucinations and stated that he knew these were not based in 
reality and was relatively unconcerned by their appearance.

Mr. ___ noted that much of his anxiety was rooted in concern 
regarding his wife's health. A few weeks prior to admission she 
was diagnosed with a recurrence of breast cancer which had been 
in remission for over ___ years. Prior to this admission she 
underwent two surgeries to treat this cancer and underwent a 
mammography on ___ to investigate if further treatment was 
necessary. Leading up to this test, Mr. ___ himself was very 
anxious and he believes this anxiety exacerbated his symptoms. 
His anxiety noticeably decreased after he learned that his 
wife's test showed successful treatment.

Mr. ___ was discharged to a Partial Hospitalization Program 
which was encouraged by his outpatient psychiatrist. The patient 
is uncertain if this will benefit him but he is willing to try.

The following medications were prescribed after discharge:
- Nortriptyline 75mg QHS (increased from 50mg on ___
- Olanzapine 5mg (started on this admission. Initially started 
with 2.5mg which was then uptitrated after patient found to 
tolerate medication).

# Insomnia: The patient at home took 0.5-1mg of Lorazepam 
nightly to
help with sleep. Patient was trialed on Trazodone 25mg and slept 
very
well and was transitioned off lorazepam due to fall concern with 
that medication.  Mr. ___ had nights where he did not sleep 
well during admission (especially the night prior to his wife's 
aforementioned test). Mr. ___ wife expressed concern that 
the patient sleep walks and is very agitated during sleep.
- Recommend outpatient sleep study to assess agitation during 
sleep.
- Patient responded well to Trazodone 25mg QHS PRN, occasionally 
needing an additional dose.

===GENERAL MEDICAL ISSUES====
___: continued carbidopa-levodopa ___ TID.  Spoke 
with outpatient neurologist regarding his ___ and 
driving who recommended outpatient driving evaluation. 

#Hyperlipidemia: Continued atorvastatin 10 mg daily. 

#Hypertension: On admission blood pressure readings of 180/100 
with 160-170/80-100 on repeat.  Monitored closely and continued 
lisinopril 20 mg daily. His blood pressure returned to within 
acceptable limits shortly after admission and remained there 
until discharge.

#Atrial fibrillation: Continued bisprolol 10 mg daily and 
dabigatran 150 mg BID

#Trigeminal neuralgia: Prescribed carbamazepine 200 mg po PRN. 
Patient notes that he
does not like to take this medication due to side effect of 
drowsiness.

#Normocytic anemia:  Admission labwork revealed Hgb 12.5 with 
MCV 96. No recent baseline for comparison. Differential includes 
early iron deficiency anemia, occult bleed, or anemia of chronic 
disease perhaps resultant from his conditions. No intervention 
performed during this admission given relatively mild drop in 
hemoglobin. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. bisoprolol fumarate 10 mg oral qam 
3. carBAMazepine 200 mg oral daily prn trigeminal neuralgia 
4. Dabigatran Etexilate 150 mg PO BID 
5. Lisinopril 20 mg PO QAM 
6. Lorazepam 0.5-1 mg PO DAILY PRN anxiety 
7. Nortriptyline 50 mg PO QHS 
8. Carbidopa-Levodopa (___) 1 TAB PO TID 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. bisoprolol fumarate 10 mg oral qam 
3. CarBAMazepine 200 mg ORAL DAILY PRN trigeminal neuralgia 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. Dabigatran Etexilate 150 mg PO BID 
6. Lisinopril 20 mg PO QAM 
7. Nortriptyline 75 mg PO QHS 
RX *nortriptyline 75 mg 1 capsule by mouth at bedtime Disp #*14 
Capsule Refills:*0
8. OLANZapine 5 mg PO QHS 
RX *olanzapine 5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
9. TraZODone ___ mg PO QHS:PRN:MR1 Insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Major depressive disorder with psychotic features.
 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - Independent. 

 
Discharge Instructions:
Dear Mr. ___,

You were recently admitted to the ___ recently for a 
recurrence of psychosis, or becoming out of touch with reality.  
In the hospital, your medications were adjusted and the 
medication olanzapine was started to help your symptoms.  As an 
outpatient, we would like you to continue to follow up with your 
psychiatrist, Dr. ___.  We would also like you to follow up 
with your neurologist, Dr. ___.  In addition, we would like 
you to have a physical therapy home evaluation as well as a test 
called a sleep study to help learn more about your sleep issues. 
 

In terms of your medications, we would like you to continue the 
olanzapine 5mg every night.  We have stopped your lorazepam 
(Ativan) and replaced it with trazodone 25mg every night as 
needed to help with your sleep.  We have also increased your 
notrtiptyline to 75mg every night.  

Please follow up with all outpatient appointments as listed 
including treatment at the Partial Hospitalization Program. Take 
this discharge paperwork to your appointments. Please continue 
all medications as directed. Please avoid abusing alcohol and 
any drugs--whether prescription drugs or illegal drugs--as this 
can further worsen your medical and psychiatric illnesses. 
Please contact your outpatient psychiatrist or other providers 
if you have any concerns. Please call ___ or go to your nearest 
emergency room if you feel unsafe in any way and are unable to 
immediately reach your health care providers.

We really enjoyed taking care of your Mr. ___!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___